US06133294
5-Methyl-6-methylthio-3-pyridinecarbonitrile
To a stirred suspension of sodium thiomethoxide (1.66 g, 23.71 mmol) in 2-propanol (20 mL) at room temperature under a nitrogen atmosphere was added a suspension of 6-fluoro-5-methyl-3-pyridinecarbonitrile (2.69 g, 19.76 mmol) in 2-propanol (10 mL). After one hour stirring at room temperature, TLC (25% EtOAc/hexane) indicated loss of starting material. The reaction mixture was diluted with water (20 mL) and filtered. The filtrate was extracted twice with ether (25 mL×2). The organic layers were combined, washed with water and evaporated in vacuo to give the desired product (2.57 g, 79.1%) as yellow fluffy crystals.

reactant | sodium thiomethoxide | 23.71 mmol, 1.66 g | C[S-].[Na+]
reactant | 6-fluoro-5-methyl-3-pyridinecarbonitrile | 19.76 mmol, 2.69 g | FC1=C(C=C(C=N1)C#N)C | C7H5FN2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | 2-propanol | 20 mL | CC(C)O | C3H8O
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
solvent | water | 20 mL | O | H2O
product | 5-Methyl-6-methylthio-3-pyridinecarbonitrile | 2.57 g, 79.1% | CC=1C=C(C=NC1SC)C#N | C8H8N2S
